US07960561B2
N-(Benzimidazol-2-yl)-3-chloroaniline
The title compound was prepared from 2-chlorobenzimidazole and 3-chloroaniline by Procedure A. The product was isolated by filtration to give the title compound as a hydrochloride salt (white solid, mp 252-257° C.). MS(ES+) m/z 244 ([M+1]+, 100).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 3-chloroaniline | ClC=1C=C(N)C=CC1 | C6H6ClN
product | N-(Benzimidazol-2-yl)-3-chloroaniline | N1=C(NC2=C1C=CC=C2)NC2=CC(=CC=C2)Cl | C13H10ClN3
